US04230696
(G) Coupling of Tyrosine
While maintaining the nitrogen gas atmosphere, 3 fold molar excess of Boc-L-Tyrosine (Vega, supra.) dissolved in dimethylformamide and adjusted to 15 ml. with the addition of methylene chloride is added to the product of Step (F) above and the resulting mixture shaken. After about 10 minutes, 3 fold molar excess of N,N-dicyclohexylcarbodiimide is added and the resulting mixture is shaken for 4.5 to 5 hours at room temperature. At the end of this period, the reaction mixture is filtered and the residue washed with dimethylformamide. The washed residue is dried.

reactant | Boc-L-Tyrosine | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
